US06410684B1
Boc-Asp(OMe)-Pro-OBzl (7.25 g) was dissolved in dry ethyl acetate (25 ml) and cooled in ice. Ethyl acetate saturated with hydrochloric acid (45 ml) was added and the mixture was stirred at 0° C. for 5 h. The excess of hydrochloric acid was removed by a nitrogen-flow and the resulting solution was concentrated in vacuo yielding H-Asp(OMe)-Pro-OBzl.HCl as a white solid (6.21 g).

reactant | Boc-Asp(OMe)-Pro-OBzl | 7.25 g | N([C@@H](CC(OC)=O)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C22H30N2O7
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | H-Asp(OMe)-Pro-OBzl.HCl | 6.21 g | N[C@@H](CC(OC)=O)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl | InChI=1S/C17H22N2O5.ClH/c1-23-15(20)10-13(18)16(21)19-9-5-8-14(19)17(22)24-11-12-6-3-2-4-7-12;/h2-4,6-7,13-14H,5,8-11,18H2,1H3;1H/t13-,14-;/m0./s1
